US04182881
A. 2,4-Dimethylbenzamide
Saturated with anhydrous ammonia, a solution of 50 g (0.3 mole) of 2,4-dimethylbenzoyl chloride and 500 ml of AR chloroform, while maintaining a temperature of 15°. Stirred for 20 min., then filtered, washed with cold distilled water and oven-dried at 60° to give 29.1 g, m.p. 184°-186°.

reactant | ammonia | N | H3N
reactant | 2,4-dimethylbenzoyl chloride | 0.3 mole, 50 g | CC1=C(C(=O)Cl)C=CC(=C1)C | C9H9ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,4-Dimethylbenzamide | CC1=C(C(=O)N)C=CC(=C1)C | C9H11NO
